US05494928
A suspension of 0.4 g of sodium hydride dispersion in 60 ml of tetrahydrofuran was treated with 1.74 g of 5-chloroindole at 0° and stirred at this temperature for 1 hour. After the addition of 1.6 ml of (RS)-methyloxirane the reaction mixture was stirred at room temperature for 48 hours and subsequently treated with 11 ml of water. The mixture was diluted with 300 ml of ether, washed with 140 ml of water and with 70 ml of saturated sodium chloride solution and the organic phase was dried over sodium sulfate. After removal of the solvent the residue was chromatographed over 60 g of silica gel with toluene-ethyl acetate (19:1). There were obtained 2.1 g (87%) of (RS)-1-(5-chloro-indol-1-yl)-propan-2-ol as a yellow oil.

reactant | sodium hydride | 0.4 g | [H-].[Na+]
reactant | 5-chloroindole | 1.74 g | ClC=1C=C2C=CNC2=CC1 | C8H6ClN
reactant | (RS)-methyloxirane | 1.6 ml | CC1OC1 | C3H6O
reactant | water | 11 ml | O | H2O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | ether | 300 ml | CCOCC | C4H10O
product | (RS)-1-(5-chloro-indol-1-yl)-propan-2-ol | 2.1 g, 87% | ClC=1C=C2C=CN(C2=CC1)CC(C)O | C11H12ClNO
